US04547501
(e) Preparation of 4-chloro-7-fluoro-[1,2,4]triazolo[4,3-a]quinoxaline
In a flame-dried reaction flask under a dry nitrogen atmosphere, there were placed 8.9 g. (0.044 mole) of 7-fluoro-4-hydroxy-[1,2,4]triazolo[4,3-a]quinoxaline and 160 ml. of phosphorus oxychloride together with 8.9 ml. of tri-n-propylamine. The reaction mixture was then refluxed overnight for approximately 16 hours and finally cooled to room temperature before being poured over ice/water with mechanical stirring. The resulting aqueous mixture was then stirred at room temperature for 30 minutes and filtered, and the solid product so obtained was subsequently washed with cold water and triturated with ethyl acetate to ultimately afford 7.0 g.(71%) of pure 4-chloro-7-fluoro-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 305°-308° C. Mass Spectrum: m/e, 222 (P); m/e, 224 (P+2).

reactant | 7-fluoro-4-hydroxy-[1,2,4]triazolo[4,3-a]quinoxaline | 0.044 mole | FC=1C=C2N=C(C=3N(C2=CC1)C=NN3)O | C9H5FN4O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | tri-n-propylamine | C(CC)N(CCC)CCC | C9H21N
product | 4-chloro-7-fluoro-[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=2N(C3=CC=C(C=C3N1)F)C=NN2 | C9H4ClFN4
